US07279580B2
2-(3-Bromo-8-fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol was coupled to 4′-fluoro-3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-2-carbonitrile (prepared as described in WO 02/074773) as described in Example 1 to give 4′-fluoro-3′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]biphenyl-2-carbonitrile as an off-white solid (217 mg, 56%): δH (360 MHz, CDCl3) 1.74 (6H, s), 2.15 (1H, s), 7.22 (1H, t, J 7), 7.40 (1H, t, J 9), 7.48-7.73 (5H, m), 7.79-7.81 (2H, m), 8.06 (1H, dd, J 7 and 2); m/z (ES+) 390 [MH+].

reactant | 2-(3-Bromo-8-fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol | BrC1=CN=C2N1C=CC(=C2F)C(C)(C)O | C10H10BrFN2O
reactant | 4′-fluoro-3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-2-carbonitrile | FC1=C(C=C(C=C1)C=1C(=CC=CC1)C#N)B1OC(C(O1)(C)C)(C)C | C19H19BFNO2
product | 4′-fluoro-3′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]biphenyl-2-carbonitrile | 217 mg, 56% | FC1=C(C=C(C=C1)C=1C(=CC=CC1)C#N)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C23H17F2N3O
